US04739063
The autoclave was cooled and the contents were suction filtered. Gas liquid chromatographic analysis of the colorless liquid filtrate on a 6'×1/8" 10% Carbowax 20M column at 200° C. showed that the only product of the reaction was 2-methyl-1,2,3,4-tetrahydroquinoline (96% 2-methyl-1,2,3,4-tetrahydroquinoline and 4% starting material). There were no detectable amounts of 2-methyl-5,6,7,8-tetrahydroquinoline and 2-methyldecahydroquinoline. Gas liquid chromatographic analysis with an external standard showed that the absolute yield of product based on consumed starting material was 100%. The use of cyclohexane as the solvent instead of n-hexadecane gave the same result (97% of 2-methyl-1,2,3,4-tetrahydroquinoline and 3% of 2-methylquinoline).

reactant | 2-methyl-1,2,3,4-tetrahydroquinoline | CC1NC2=CC=CC=C2CC1 | C10H13N
reactant | 2-methyl-5,6,7,8-tetrahydroquinoline | CC1=NC=2CCCCC2C=C1 | C10H13N
reactant | 2-methyldecahydroquinoline | CC1NC2CCCCC2CC1 | C10H19N
product | n-hexadecane | CCCCCCCCCCCCCCCC | C16H34
